US07601722B2
A solution of 3,4-difluoro-N-(2-nitrophenyl)aniline (22.76 g, 91 mmol) in 50% ethyl acetate/methanol (500 mL) was treat with palladium on carbon 10 w. % loading, matrix activated carbon support (3.07 g). The reaction mixture was placed on the Parr shaker for 3 h at 60 psi. The reaction mixture was filtered through celite and evaporated. The crude reaction product was purified by flash chromatography (SiO2, 3→50% ethyl acetate/heptane) to provided N-(3,4-difluorophenyl)benzene-1,2-diamine (10.17 g, 51%) as a brown solid: HPLC purity 99.9% at 210-370 nm, 9.4 min.; Xterra RP18, 3.5 u, 150×4.6 mm column, 1.2 mL/min, 85/15-5/95 (Ammon. Form. Buff. Ph=3.5/ACN+MeOH) for 10 min, hold 4 min.

reactant | 3,4-difluoro-N-(2-nitrophenyl)aniline | 91 mmol, 22.76 g | FC=1C=C(NC2=C(C=CC=C2)[N+](=O)[O-])C=CC1F | C12H8F2N2O2
solvent | ethyl acetate methanol | 500 mL | C(C)(=O)OCC.CO
catalyst | palladium on carbon | [Pd] | Pd
product | N-(3,4-difluorophenyl)benzene-1,2-diamine | 10.17 g, 51% | FC=1C=C(C=CC1F)NC=1C(=CC=CC1)N | C12H10F2N2
